US06294558B1
1-(4-[[tert-Butyl(dimethyl)silyl]oxy]-3-ethylphenyl)-1-ethanone (step 2)
To a stirred solution of 1-(3-ethyl-4-hydroxyphenyl)-1-ethanone (9.24 g, 56.27 mmol) in DMF (60 ml) was added tert-butyldimethylsilyl chloride (9.33 g, 61.9 mmol), imidazole (4.6 g, 67.52 mmol), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into water. The whole was extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was fractionally distilled under reduced pressure (180° C., 0.5 mmHg) to give title compound (12.3 g, 78% yield).

reactant | 1-(3-ethyl-4-hydroxyphenyl)-1-ethanone | 56.27 mmol, 9.24 g | C(C)C=1C=C(C=CC1O)C(C)=O | C10H12O2
reactant | tert-butyldimethylsilyl chloride | 61.9 mmol, 9.33 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 67.52 mmol, 4.6 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 1-(4-[[tert-Butyl(dimethyl)silyl]oxy]-3-ethylphenyl)-1-ethanone | 12.3 g, 78% yield | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C(C)=O)CC | C16H26O2Si
